US04431653
A mixture of 4-[(2-triphenylmethylaminomethyl-1H-imidazol-1-yl)methyl]-1-piperidinecarboxaldehyde (0.48 g, 0.00103 M), 2 N sodium hydroxide (24 ml) and methanol (24 ml) was heated at 50° C. for 4 hrs. The reaction was concentrated to about 20 ml at room temperature and extracted with ethylacetate. The extracts, dried over sodium sulfate, was stripped to dryness and purified on preparative thin layer chromatography plates to give 4-[(2-triphenylmethylaminomethyl-1H-imidazol-1-yl)methyl]-piperidine (0.167 g, 37% yield).

reactant | 4-[(2-triphenylmethylaminomethyl-1H-imidazol-1-yl)methyl]-1-piperidinecarboxaldehyde | 0.00103 M, 0.48 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NCC=1N(C=CN1)CC1CCN(CC1)C=O | C30H32N4O
reactant | sodium hydroxide | 2 N, 24 ml | [OH-].[Na+]
solvent | methanol | 24 ml | CO | CH4O
product | 4-[(2-triphenylmethylaminomethyl-1H-imidazol-1-yl)methyl]-piperidine | 0.167 g, 37% yield | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NCC=1N(C=CN1)CC1CCNCC1 | C29H32N4
